US06664255B1
The 1-benzyloxycarbonylmethyl-3,5-dichloro-6-(3-aminophenyl)pyrazinone (210.6 mg, 0.48 mmol) was taken up in 9 mL of acetonitrile. Polyamine resin (1.05 g, 4.9 mmol) was added, along with about 10 mL of dichioromethane. After agitating about 10 mins the resin was filtered, rinsed with acetonitrile, and the solvents concentrated to about 10 mL. Formaldehyde (37%) (0.4 mL, 4.9 mmol) was added, followed by NaCNBH3 (1.0 M in THF, 1.5 mL, 1.5 mmol) and the dropwise addition of two 50 mL portions of glacial acetic acid (17.4 M, 1.74 mmol). The reaction was monitored by LC/MS. A third 50 mL portion of glacial acetic acid was added after 3.5 h to force the reaction to completion. The solution was diluted with about 40 mL of diethyl ether and washed with 1.2 M NaOH (3×5 mL), saturated NaCl (1×5 mL), dried over MgSO4, and the solvents were removed under reduced pressure to give 0.17 g (82% yield) of 1-benzyloxycarbonylmethyl-3,5-dichloro-6-(3-[N,N-dimethylamino]phenyl)pyrazinone (EX-103A): 1H NMR (300 MHz, CDCl3): d 2.96 (s, 6H), 4.59 (s, 2H), 5.19 (s, 2H), 6.55 (m, 2H), 6.82 (d, 1H), 7.25-7.40 (m, 6H).

reactant | 1-benzyloxycarbonylmethyl-3,5-dichloro-6-(3-aminophenyl)pyrazinone | 0.48 mmol, 210.6 mg | C(C1=CC=CC=C1)OC(=O)CN1C(C(=NC(=C1C1=CC(=CC=C1)N)Cl)Cl)=O | C19H15Cl2N3O3
reactant | Formaldehyde | 4.9 mmol, 0.4 mL | C=O | CH2O
reactant | NaCNBH3 | 1.5 mmol, 1.0 M, 1.5 mL | [BH3-]C#N.[Na+]
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
solvent | diethyl ether | about 40 mL | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichioromethane | about 10 mL | ClCCl | CH2Cl2
solvent | acetic acid | 1.74 mmol, 17.4 M | C(C)(=O)O | C2H4O2
product | 1-benzyloxycarbonylmethyl-3,5-dichloro-6-(3-[N,N-dimethylamino]phenyl)pyrazinone | 0.17 g, 82% yield | C(C1=CC=CC=C1)OC(=O)CN1C(C(=NC(=C1C1=CC(=CC=C1)N(C)C)Cl)Cl)=O | C21H19Cl2N3O3
